US06887881B1
(iii) tert-Butyl 7-benzyl-1,5-dimethyl-9-hydroxy-3,7-diazabicyclo[3.3.1]-nonane-3-carboxylate
Di-tert-butyl dicarbonate was added slowly to a solution of 3-benzyl-1,5-dimethyl-9-hydroxy-3,7-diazabicyclo[3.3.1]nonane (from step (ii) above; 0.68 g; 2.61 mmol) in THF (5 mL). The reaction was stirred at rt until all of the starting material had been consumed (as indicated by tlc). The solvent was removed under reduced pressure to give the sub-tide compound in a 89% yield.

reactant | Di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-benzyl-1,5-dimethyl-9-hydroxy-3,7-diazabicyclo[3.3.1]nonane | C(C1=CC=CC=C1)N1CC2(CNCC(C1)(C2O)C)C | C16H24N2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-Butyl 7-benzyl-1,5-dimethyl-9-hydroxy-3,7-diazabicyclo[3.3.1]-nonane-3-carboxylate | 89% yield | C(C1=CC=CC=C1)N1CC2(CN(CC(C1)(C2O)C)C(=O)OC(C)(C)C)C | C21H32N2O3
